US09399640B2
Step 1. {4-Bromo-1-[(4-methylphenyl)sulfonyl]-7-oxo-1,7-dihydro-6H-pyrrolo[2,3-c]pyridin-6-yl}acetonitrile
This compound was synthesized according to the procedure of Example 83, Step 1, using 4-bromo-1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-c]pyri din-7-ol and bromoacetonitrile as the starting materials. LCMS calculated for C16H13BrN3O3S (M+H)+: m/z=406.0, 408.0. found: 405.9, 407.9.

reactant | 4-bromo-1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-c]pyri din-7-ol | BrC1=C2C(=C(N=C1)O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C14H11BrN2O3S
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | {4-Bromo-1-[(4-methylphenyl)sulfonyl]-7-oxo-1,7-dihydro-6H-pyrrolo[2,3-c]pyridin-6-yl}acetonitrile | BrC=1C2=C(C(N(C1)CC#N)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C16H12BrN3O3S
